US07494984B2
1-Isopropyl-4,5-dihydro-1H-imidazol-2-amine hydrobromide
A solution of N-isopropylethylenediamine (10.0 g, 0.097 mol) in methanol (10 ml) was cooled to 0° C. and treated dropwise with a solution of cyanogen bromide (10.37 g, 0.098 mol) in methanol (25 ml) while maintaining the temperature below 10° C. The reaction mixture was then heated to 80° C. for 45 min, cooled and concentrated under reduced pressure. Crystallization of the residue from cold ethanol gave 10.4 g (50% yield) of the title product as white crystals; mp 154-155° C. 1HNMR 400 MHz (CDCl3) δ (ppm): 1.27 (6H, d, J=6.6 Hz, 2×CH3), 3.57-3.75 (4H, m, 2×CH2), 4.41 (1H, m, CH).

reactant | N-isopropylethylenediamine | 0.097 mol, 10.0 g | C(C)(C)NCCN | C5H14N2
reactant | cyanogen bromide | 0.098 mol, 10.37 g | N#CBr | CBrN
solvent | methanol | 10 ml | CO | CH4O
solvent | methanol | 25 ml | CO | CH4O
product | 1-Isopropyl-4,5-dihydro-1H-imidazol-2-amine hydrobromide | 10.4 g, 50% yield | Br.C(C)(C)N1C(=NCC1)N | InChI=1S/C6H13N3.BrH/c1-5(2)9-4-3-8-6(9)7;/h5H,3-4H2,1-2H3,(H2,7,8);1H
